US03979408
2-(3,4-Dicarbethoxy-2,5-dimethyl-pyrrol-1-yl)amino-4,5-dihydro-1H-imidazole hydrobromide.
To a solution of 15 g. (0.0581 mole) of diethyl 2,3-diacetylsuccinate in 150 ml. of absolute ethanol, 1.2 ml. of glacial acetic acid is added. The mixture is gently refluxed for 5 minutes then 8.13 g. (0.0467 mole) of 2-hydrazino-4,5-dihydro-1H-imidazole hydrobromide is added. The mixture is refluxed for 20 hours, then the solvent is evaporated off. The obtained residue is recrystallized several times from isopropanol, and 6.3 g. of the title compound are recovered. M.p. 172°-4°C.

reactant | diethyl 2,3-diacetylsuccinate | 0.0581 mole | C(C)(=O)C(C(=O)OCC)C(C(=O)OCC)C(C)=O | C12H18O6
reactant | ethanol | C(C)O | C2H6O
reactant | 2-hydrazino-4,5-dihydro-1H-imidazole hydrobromide | 0.0467 mole | Br.N(N)C=1NCCN1
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3,4-Dicarbethoxy-2,5-dimethyl-pyrrol-1-yl)amino-4,5-dihydro-1H-imidazole hydrobromide | Br.C(=O)(OCC)C1=C(N(C(=C1C(=O)OCC)C)NC=1NCCN1)C | InChI=1S/C15H22N4O4.BrH/c1-5-22-13(20)11-9(3)19(18-15-16-7-8-17-15)10(4)12(11)14(21)23-6-2;/h5-8H2,1-4H3,(H2,16,17,18);1H
